### PR TITLE
feat: `erased` declarations in `do` notation

### PR DESCRIPTION
**Pull request by sgraf812**
This PR adds erased state to `do` notation: `erased x := e`, `erased mut x := e`, and `erased x ← act` declare verification-only variables that loop `invariant` clauses and assertions can read while compiled code carries only a dummy in their place.

```lean
def erasedDoubleSum (xs : List Nat) : Id Nat
    ensures r => ∃ n, r = 2 * n := do
  let mut acc := 0
  erased mut half : Nat := 0
  for x in xs invariant _pre _suff => acc = 2 * half do
    acc := acc + x + x
    half := half + x
  return acc
```

An erased variable is backed by the new type `Erased` in `Init.Data.Erased`, upstreamed from Mathlib.
`erased` is a doElem of its own beside `let` and `have`. Only the single variable form as the left-hand side pattern is supported.

### CODE REVIEW

File: src/Lean/Elab/BuiltinDo/For.lean [hunk 1]
```diff
@@ -6,6 +6,7 @@ Authors: Sebastian Graf
 module
 
 prelude
+import Init.Data.Erased  -- referenced by the ghost shadow quotations
```
Comment (sgraf812) [inline src/Lean/Elab/BuiltinDo/For.lean]: Remove comment. Shouldn't this be a meta import? Std.WP.Gadget.ForIn is, after all?

File: src/Lean/Elab/BuiltinDo/For.lean [hunk 2]
```diff
@@ -169,10 +157,21 @@ structure ForInApp where
   σ : Expr
   /-- The pattern naming the loop's mutable variables in the state tuple. -/
   statePat : Term
+  /-- The ghost variables among the loop's mutable variables; annotations bind their `.out`
+  shadows over the state tuple. -/
+  ghostMutVars : Array MutVar := #[]
```
Comment (sgraf812) [inline src/Lean/Elab/BuiltinDo/For.lean]: Why do we need this? Can't we extract this info simply from the ambient DoElabM context's mutVars?

File: src/Lean/Elab/BuiltinDo/Let.lean [hunk 3]
```diff
@@ -6,27 +6,37 @@ Authors: Sebastian Graf
 module
 
 prelude
+import Init.Data.Erased  -- referenced by the `ghost` quotations
```
Comment (sgraf812) [inline src/Lean/Elab/BuiltinDo/Let.lean]: same thing. delete comment, consider meta.

File: src/Lean/Parser/Do.lean [hunk 4]
```diff
@@ -63,7 +63,8 @@ def notFollowedByRedefinedTermToken :=
   -- an "open" command follows the `do`-block.
   -- If we don't add `do`, then users would have to indent `do` blocks or use `{ ... }`.
   notFollowedBy ("set_option" <|> "open" <|> "if" <|> "match" <|> "match_expr" <|> "let" <|> "let_expr" <|> "have" <|>
-      "do" <|> "dbg_trace" <|> "idbg" <|> "assert!" <|> "debug_assert!" <|> "for" <|> "unless" <|> "return" <|> symbol "try")
+      "do" <|> "dbg_trace" <|> "idbg" <|> "assert!" <|> "debug_assert!" <|> "for" <|> "unless" <|> "return" <|> symbol "try" <|>
+      nonReservedSymbol "ghost ")
```
Comment (sgraf812) [inline src/Lean/Parser/Do.lean]: is it necessary to have the space here? also is it necessary to wrap in nonReservedSymbol?

File: src/Lean/Elab/Do/Basic.lean [hunk 5]
```diff
@@ -602,14 +606,43 @@ def registerMutVarAlias (x : Name) : DoElabM Unit := do
     if id != baseMutVar.baseId then
       pushInfoLeaf <| .ofFVarAliasInfo (baseMutVar.mkAliasInfo id)
 
+/-- Bind `x` to `carried.out` at the underlying type while `k` runs, and zeta-substitute the
+binding away, so the source name reaches proofs and never compiled code. The newest binding of
+`x` must be the carried `Erased` binding. -/
+def withGhostShadow (x : Ident) (k : DoElabM Expr) : DoElabM Expr := do
+  let carried ← getLocalDeclFromUserName x.getId
+  let ty ← instantiateMVars carried.type
+  let .app (.const ``Erased [u]) t := ty
```
Comment (sgraf812) [inline src/Lean/Elab/Do/Basic.lean]: use `let_expr c@Erased t := ...` instead; much more elegant. can also do the instantiateMVars

File: src/Lean/Elab/Do/Basic.lean [hunk 6]
```diff
@@ -99,10 +100,13 @@ def CodeLiveness.lub (a b : CodeLiveness) : CodeLiveness :=
...
 /-- A mutable variable declared by `let mut` in a `do` block. -/
 structure MutVar where
-  /-- The identifier of the `let mut` declaration. -/
+  /-- The identifier of the `let mut` or `ghost mut` declaration. -/
   ident : Ident
-  /-- The `FVarId` of the initial binding produced by `let mut`. -/
+  /-- The `FVarId` of the initial binding produced by the declaration. -/
   baseId : FVarId
+  /-- Whether the variable comes from `ghost mut`. Its bindings alternate under one name: a
+  carried `Erased` binding, shadowed by the `.out` shadow that the source reads. -/
```
Comment (sgraf812) [inline src/Lean/Elab/Do/Basic.lean]:
```suggestion
  /-- Whether the variable comes from `ghost mut`. -/
```

File: src/Lean/Elab/Do/Basic.lean [hunk 7]
```diff
@@ -99,10 +100,13 @@ def CodeLiveness.lub (a b : CodeLiveness) : CodeLiveness :=
...
+  ghost : Bool := false
```
Comment (sgraf812) [inline src/Lean/Elab/Do/Basic.lean]:
```suggestion
  ghost : Bool
```

File: src/Lean/Elab/Do/Basic.lean [hunk 8]
```diff
@@ -602,14 +606,43 @@ def registerMutVarAlias (x : Name) : DoElabM Unit := do
     if id != baseMutVar.baseId then
       pushInfoLeaf <| .ofFVarAliasInfo (baseMutVar.mkAliasInfo id)
 
+/-- Bind `x` to `carried.out` at the underlying type while `k` runs, and zeta-substitute the
+binding away, so the source name reaches proofs and never compiled code. The newest binding of
+`x` must be the carried `Erased` binding. -/
+def withGhostShadow (x : Ident) (k : DoElabM Expr) : DoElabM Expr := do
```
Comment (sgraf812) [inline src/Lean/Elab/Do/Basic.lean]: "ghost shadow" comes straight from a fantasy novel. `withErasedProj` or `withErasedField` or anything else would be better

File: src/Lean/Elab/BuiltinDo/Let.lean [hunk 9]
```diff
@@ -228,20 +287,34 @@ private def getLetConfigAndCheckMut (letConfigStx : TSyntax ``Parser.Term.letCon
...
     let decl : TSyntax ``letDecl := ⟨mkNode ``letDecl #[decl]⟩
-    elabDoLetOrReassign {} .reassign decl tk dec
+    elabDoLetOrReassign {} (.reassign false) decl tk dec
   | `(doReassign| $decl:letPatDecl) =>
     let decl : TSyntax ``letDecl := ⟨mkNode ``letDecl #[decl]⟩
-    elabDoLetOrReassign {} .reassign decl decl dec
+    for var in (← getLetDeclVars decl) do
+      if ((← findMutVar? var.getId).map (·.ghost)).getD false then
+        throwErrorAt var "a ghost variable takes a plain reassignment, as in `{var.getId} := e`"
+    elabDoLetOrReassign {} (.reassign false) decl decl dec
```
Comment (sgraf812) [inline src/Lean/Elab/BuiltinDo/Let.lean]: Are the special cases here really the right place to put it? Presently there is special code both here and in elabDoLetOrReassign. I think it would be better if it was all in elabDoLetOrReassign. the current state is unbecoming

File: src/Lean/Elab/BuiltinDo/Let.lean [hunk 10]
```diff
@@ -206,7 +222,50 @@ private def getLetConfigAndCheckMut (letConfigStx : TSyntax ``Parser.Term.letCon
...
+      return ⟨(← `(doGhost| ghost%$tk $[mut%$mutTk?]? $v:ident := $v:ident)).raw⟩
+    let dec ← dec.ensureUnitAt tk
+    let dec ← if redecls.isEmpty then pure dec else
+      pure <| DoElemCont.mk (← mkFreshUserName `__r) (← mkPUnit) (elabDoElems1 redecls dec) dec.kind
+    elabDoLetOrReassign {} (.let none false) declNew tk dec
+  | _ => throwUnsupportedSyntax
+
+/-- Elaborate `ghost $[mut]? x ← act`: bind the action's result plainly to a fresh variable and
+funnel it through `ghost x := y`, which wraps. At runtime the result is unused, so the element
+behaves like `_ ← act`. -/
```
Comment (sgraf812) [inline src/Lean/Elab/BuiltinDo/Let.lean]: remove docstring!

File: src/Lean/Elab/BuiltinDo/Let.lean [hunk 11]
```diff
@@ -206,7 +222,50 @@ private def getLetConfigAndCheckMut (letConfigStx : TSyntax ``Parser.Term.letCon
 @[builtin_doElem_elab Lean.Parser.Term.doLet] def elabDoLet : DoElab := fun stx dec => do
   let `(doLet| let%$tk $[mut%$mutTk?]? $config:letConfig $decl:letDecl) := stx | throwUnsupportedSyntax
   let config ← getLetConfigAndCheckMut config mutTk?
-  elabDoLetOrReassign config (.let mutTk?) decl tk dec
+  elabDoLetOrReassign config (.let mutTk? false) decl tk dec
+
+/-- Elaborate `ghost $[mut]? $decl`. A single variable `x : t := e` binds the carried
+`x : Erased t := Erased.mk e`, immediately shadowed by the `.out` shadow that the source reads.
+A pattern binds its variables plainly and then shadows each one with its ghost redeclaration. -/
```
Comment (sgraf812) [inline src/Lean/Elab/BuiltinDo/Let.lean]: remove docstring!

File: src/Lean/Elab/BuiltinDo/Let.lean [hunk 12]
```diff
@@ -206,7 +222,50 @@ private def getLetConfigAndCheckMut (letConfigStx : TSyntax ``Parser.Term.letCon
...
+    elabDoLetOrReassign {} (.let mutTk? true) declNew tk dec
+  | `(doGhost| ghost%$tk $[mut%$mutTk?]? $decl:letPatDecl) =>
+    let declNew : TSyntax ``letDecl := ⟨mkNode ``letDecl #[decl]⟩
+    let vars ← getLetDeclVars declNew
+    let redecls ← vars.mapM fun v =>
+      return ⟨(← `(doGhost| ghost%$tk $[mut%$mutTk?]? $v:ident := $v:ident)).raw⟩
+    let dec ← dec.ensureUnitAt tk
+    let dec ← if redecls.isEmpty then pure dec else
+      pure <| DoElemCont.mk (← mkFreshUserName `__r) (← mkPUnit) (elabDoElems1 redecls dec) dec.kind
+    elabDoLetOrReassign {} (.let none false) declNew tk dec
```
Comment (sgraf812) [inline src/Lean/Elab/BuiltinDo/Let.lean]: Walk me through this code. Not sure wehther I'm happy with ghost pat decls semantically.

File: src/Lean/Elab/BuiltinDo/Let.lean [hunk 13]
```diff
@@ -206,7 +222,50 @@ private def getLetConfigAndCheckMut (letConfigStx : TSyntax ``Parser.Term.letCon
...
+/-- Elaborate `ghost $[mut]? $decl`. A single variable `x : t := e` binds the carried
+`x : Erased t := Erased.mk e`, immediately shadowed by the `.out` shadow that the source reads.
+A pattern binds its variables plainly and then shadows each one with its ghost redeclaration. -/
+@[builtin_doElem_elab Lean.Parser.Term.doGhost] def elabDoGhost : DoElab := fun stx dec => do
+  match stx with
+  | `(doGhost| ghost%$tk $[mut%$mutTk?]? $x:ident $[: $t?]? := $e) =>
+    let declNew ← match t? with
+      | some t => `(letDecl| $x:ident : Erased $t := Erased.mk $e)
+      | none   => `(letDecl| $x:ident := Erased.mk $e)
+    elabDoLetOrReassign {} (.let mutTk? true) declNew tk dec
```
Comment (sgraf812) [inline src/Lean/Elab/BuiltinDo/Let.lean]: Why isn't `declNew` constructed in `elabDoLetOrReassign` instead? Is it harder to construct it there?

File: src/Init/Data/Erased.lean [hunk 14]
```diff
@@ -0,0 +1,43 @@
...
+  Classical.choose e.property
+
+@[simp, grind =] theorem out_mk {α : Sort u} (a : α) : (mk a).out = a :=
+  cast (congrFun (Classical.choose_spec (mk a).property) a).symm rfl
+
+@[simp, grind =] theorem mk_out {α : Sort u} (e : Erased α) : mk e.out = e := by
+  cases e with
+  | mk s h => exact Subtype.ext (Classical.choose_spec h)
+
+@[ext] theorem out_inj {α : Sort u} {a b : Erased α} (h : a.out = b.out) : a = b := by
```
Comment (Rob23oba) [inline src/Init/Data/Erased.lean]: This is misnamed, it should just be called `ext`; the name `out_inj` would indicate that it's an iff.

File: src/Init/Data/Erased.lean [hunk 15]
```diff
@@ -0,0 +1,43 @@
...
+  rw [← mk_out a, ← mk_out b, h]
+
+@[simp, grind =] theorem mk_inj {α : Sort u} {a b : α} : mk a = mk b ↔ a = b :=
+  ⟨fun h => by have := congrArg out h; rwa [out_mk, out_mk] at this, fun h => h ▸ rfl⟩
```
Comment (Rob23oba) [inline src/Init/Data/Erased.lean]: Surely this should use `grind inj`?
```suggestion
@[simp] theorem mk_inj {α : Sort u} {a b : α} : mk a = mk b ↔ a = b :=
  ⟨fun h => by have := congrArg out h; rwa [out_mk, out_mk] at this, fun h => h ▸ rfl⟩

@[grind inj] theorem injective_mk {α : Sort u} : (@mk α).Injective := fun _ _ => mk_inj.mp
```
